US09388189B2
(S)—N-(4-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-indazol-6-yl)methanesulfonamide
(S)—N-(4-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-indazol-6-yl)methanesulfonamide (13 mg, 0.02 mmol) was treated with trifluoroacetic acid (2 ml, 26 mmol) and a solution of ammonia (7N in methanol, 2 ml, 117 mmol) according to the method described in Example 27 to give 7 mg (66% yield) of the title compound. Purity 100%.

reactant | (S)—N-(4-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-indazol-6-yl)methanesulfonamide | 0.02 mmol, 13 mg | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)N(C=C1C1=C2C=NNC2=CC(=C1)NS(=O)(=O)C)COCC[Si](C)(C)C | C35H40N10O4SSi
reactant | trifluoroacetic acid | 26 mmol, 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 117 mmol, 7N, 2 ml | N | H3N
product | (S)—N-(4-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-indazol-6-yl)methanesulfonamide | 7 mg, 66% yield | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)NC=C1C1=C2C=NNC2=CC(=C1)NS(=O)(=O)C | C29H26N10O3S
